US07375138B2
3.09 g of TMEDA were dissolved in 30 ml of THF (anhydrous) and added dropwise at −90° C. to 20.5 ml of a 1.3M solution of sec-butyllithium in cyclohexane. A solution of 3.0 g of 4-pentafluorosulfanylbenzoic acid in 20 ml of THF (anhydrous) was then added dropwise at −90° C. After stirring at −90° C. for one hour, a solution of 5.15 g of methyl iodide in 20 ml of THF (anhydrous) was added dropwise. The temperature was kept at −80° C. during this. After stirring at −78° C. for 20 minutes, 100 ml of water were injected, a dilute aqueous HCl solution was used to adjust to pH=1, and the mixture was extracted 3 times with 100 ml of MTB each time. After drying over MgSO4, the solvent was removed in vacuo. The residue was initially chromatographed on silica gel with DIP/2% HOAc, and 1.60 g of a mixture of 4-pentafluorosulfanylbenzoic acid and 4-pentafluorosulfanyl-2-methylbenzoic acid were obtained. This mixture was rechromatographed under the following conditions:

reactant | TMEDA | 3.09 g | CN(C)CCN(C)C | C6H16N2
reactant | sec-butyllithium | C(C)(CC)[Li]
reactant | 4-pentafluorosulfanylbenzoic acid | 3.0 g | FS(C1=CC=C(C(=O)O)C=C1)(F)(F)(F)F | C7H5F5O2S
reactant | methyl iodide | 5.15 g | CI | CH3I
reactant | HCl | Cl | ClH
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 4-pentafluorosulfanyl-2-methylbenzoic acid | FS(C1=CC(=C(C(=O)O)C=C1)C)(F)(F)(F)F | C8H7F5O2S
